US05616599
5-Cyano-4-Propionyl-2-propyl-1-tritylimidazole
Following a procedure similar to that described in Preparation 15, but using 8.05 g of 2-propyl-1-tritylimidazole-4,5-dicarbonitrile (prepared as described in Preparation 14) and 14 ml of a 3M solution of ethylmagnesium bromide in diethyl ether, 7.03 g of the title compound were obtained as crystals, melting at 96° C. (softening at 87° C.).

reactant | 2-propyl-1-tritylimidazole-4,5-dicarbonitrile | 8.05 g | C(CC)C=1N(C(=C(N1)C#N)C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22N4
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | diethyl ether | C(C)OCC | C4H10O
product | 5-Cyano-4-Propionyl-2-propyl-1-tritylimidazole | 7.03 g | C(#N)C1=C(N=C(N1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC)C(CC)=O | C29H27N3O
